US08461179B1
A mixture of 1-(5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea (211 mg, 0.464 mmol), Cs2CO3 (453 mg, 1.392 mmol), N,N-dimethylurea (204 mg, 2.319 mmol) and Xantphos (81 mg, 0.139 mmol) in dioxane (5 mL) was sparged with Ar, treated with Pd2(dba)3 (64 mg, 0.070 mmol) and heated at 100° C. for 4 h. The mixture was cooled to RT, treated with EtOAc, DMF and 50% satd. NaHCO3 and the solids removed via filtration through diatomaceous earth. The layers of the filtrate were separated, the organic layer washed with brine, dried over Na2SO4, concentrated to dryness and purified via reverse-phase chromatography (MeCN/H2O with 0.1% TFA). The organics were removed under reduced pressure, the aqueous residue treated with satd. NaHCO3 and stirred. The resulting solid was collected via filtration and dried to afford 3-(3-(2,4-difluoro-5-(3-phenylureido)phenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)-1,1-dimethylurea (47 mg, 33% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.21 (s, 1H), 9.03 (s, 1H), 8.66 (s, 1H), 8.57 (s, 1H), 8.17 (dd, J=9.1, 7.8 Hz, 1H), 8.01 (d, J=2.1 Hz, 2H), 7.45-7.38 (m, 3H), 7.26 (t, J=7.8 Hz, 2H), 6.96 (t, J=7.4 Hz, 1H), 4.18 (q, J=7.3 Hz, 2H), 2.97 (s, 6H), 1.24 (t, J=7.1 Hz, 3H); MS (ESI) m/z: 507.2 [M+H]+.

reactant | 1-(5-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-phenylurea | 0.464 mmol, 211 mg | ClC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)F | C23H17ClF2N4O2
reactant | Cs2CO3 | 1.392 mmol, 453 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N,N-dimethylurea | 2.319 mmol, 204 mg | CN(C(=O)N)C | C3H8N2O
reactant | Xantphos | 0.139 mmol, 81 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.070 mmol, 64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-(2,4-difluoro-5-(3-phenylureido)phenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)-1,1-dimethylurea | 47 mg, 33% yield | FC1=C(C=C(C(=C1)F)NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(N(C)C)=O)CC)=O | C26H24F2N6O3
